US05859014
substituting 1-[2-(2,2,2-trifluoroethoxy)pheny]piperazine and 3-(3-chloropropyl)-6-methyl-2,4(1H,3H)-pyrimidinedione gave 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-6-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 218°-220° C.; Anal.: Calcd. for C20H25F3N4O3.(HCl)2 : C, 48.10; H, 5.44; N, 11.22%; Found: C, 47.85; H, 5.48; N, 11.08%;

reactant | 1-[2-(2,2,2-trifluoroethoxy)pheny]piperazine | FC(COC1=C(C=CC=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | 3-(3-chloropropyl)-6-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(NC(=CC1=O)C)=O | C8H11ClN2O2
product | 3-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propyl)-6-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC(=CC1=O)C)=O)(F)F | InChI=1S/C20H25F3N4O3.ClH/c1-15-13-18(28)27(19(29)24-15)8-4-7-25-9-11-26(12-10-25)16-5-2-3-6-17(16)30-14-20(21,22)23;/h2-3,5-6,13H,4,7-12,14H2,1H3,(H,24,29);1H
